US08022222B2
Methyl 3-(2-(4-isopropylthiazol-2-ylamino)pyridin-4-yloxy)benzoate
Following the method of Example 1, Step B, 4-isopropylthiazol-2-amine (10.55 mL, 4.219 mmol), methyl 3-(2-chloropyridin-4-yloxy)benzoate (1.224 g, 4.641 mmol), potassium phosphate (0.9850 g, 4.641 mmol), tris(dibenzylideneacetone)dipalladium (0). (0.09658 g, 0.1055 mmol), and 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (0.06713 g, 0.1160 mmol) were reacted in water (3 mL) and toluene (11 mL) to give the title compound (1.297 g, 81.55% yield) as yellow solid. 1H NMR (CDCl3) δ 8.19 (d, 1H), 7.93 (dt, 1H), 7.76 (m, 1H), 7.50 (t, 1H), 7.30 (m, 1H), 6.50 (m, 1H), 6.48 (dd, 1H), 6.33 (s, 1H), 3.92 (s, 3H), 2.87 (m, 1H), 1.22 (d, 6H).

reactant | 4-isopropylthiazol-2-amine | 4.219 mmol, 10.55 mL | C(C)(C)C=1N=C(SC1)N | C6H10N2S
reactant | methyl 3-(2-chloropyridin-4-yloxy)benzoate | 4.641 mmol, 1.224 g | ClC1=NC=CC(=C1)OC=1C=C(C(=O)OC)C=CC1 | C13H10ClNO3
reactant | potassium phosphate | 4.641 mmol, 0.9850 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 11 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 3 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.1160 mmol, 0.06713 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
product | Methyl 3-(2-(4-isopropylthiazol-2-ylamino)pyridin-4-yloxy)benzoate | 1.297 g, 81.55% yield | C(C)(C)C=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(C(=O)OC)C=CC1 | C19H19N3O3S
